US04545995
N,N-Diethyl-4-(4-nitrophenyl)-2-buten-1-amine hydrochloride
To 250 ml of diethylamine at 0° C. add 30 g (0.14 mole) of 1chloro-4-(4-nitrophenyl)-2-butene over a 30 minute period. Stir for 16 hr at room temperature. Remove the solvent in vacuo. Extract the residue with 200 ml of 10% hydrochloric acid. Extract the resulting solution 2×100 ml ethyl acetate and discard. Adjust the pH of the water layer to about 12 with 10% sodium hydroxide. Extract 3×100 ml methylene chloride. Take the combined organic extracts and dry over Na2SO4. Remove the solvent in vacuo. Dissolve the residue in 100 ml ethanol, and add 1.5 equivalents of concentrated hydrochloric acid. Evaporate off the solvent, and crystallize the residue with acetone to provide the title compound.

reactant | 1chloro-4-(4-nitrophenyl)-2-butene | 0.14 mole, 30 g | ClCC=CCC1=CC=C(C=C1)[N+](=O)[O-] | C10H10ClNO2
reactant | hydrochloric acid | 1.5 equivalents | Cl | ClH
reactant | diethylamine | 250 ml | C(C)NCC | C4H11N
product | N,N-Diethyl-4-(4-nitrophenyl)-2-buten-1-amine hydrochloride | Cl.C(C)N(CC=CCC1=CC=C(C=C1)[N+](=O)[O-])CC | InChI=1S/C14H20N2O2.ClH/c1-3-15(4-2)12-6-5-7-13-8-10-14(11-9-13)16(17)18;/h5-6,8-11H,3-4,7,12H2,1-2H3;1H
